US08791267B2
Into a 20 mL vial was added [5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-ylmethyl]-carbamic acid ethyl ester (P-367) (152 mg, 0.43 mmol), dichloromethane (4 mL), TEA (0.11 mL, 0.85 mmol). The solution was cooled to 0° C. and Ethyl chlorooxoacetate (71 uL, 0.64 mmol) was added. After 20 minutes at room temperature, the organic solution was washed with H2O and brine, and then concentrated. Ethyl acetate was added to the residue, which produced a solid and was filtered. The solid was triturated with ether and dried to give N-[5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-ylmethyl]-oxalamic acid ethyl ester (I-40) (69 mg, 35%) as a gray-blue solid.

reactant | [5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-ylmethyl]-carbamic acid ethyl ester | 0.43 mmol, 152 mg | C(C)OC(NCC1=NC=C(C=C1)CC=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F)=O | C23H22ClFN2O3
reactant | Ethyl chlorooxoacetate | 0.64 mmol, 71 uL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-[5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-ylmethyl]-oxalamic acid ethyl ester | 69 mg, 35% | C(C)OC(C(=O)NCC1=NC=C(C=C1)CC=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F)=O | C24H22ClFN2O4
